US07807709B2
F. (3S,4R)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-(isopropylamino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of (3S,4S)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (7.7 g, 22.41 mmol) and isopropylamine (5.78 mL, 67.24 mmol) in 1,2-dichloroethane (200 mL) is stirred 25 min before the addition of NaBH(OAc)3 (11.88 g, 56.03 mmol). The solution is stirred for 5 h, then diluted with CH2Cl2 and washed with an aqueous saturated solution of NaHCO3. The aqueous layer is back extracted twice with CH2Cl2 and the combined organic extracts are dried over Na2SO4, filtered and concentrated. The crude material is used in the next step without further purification. TLC, Rf (CH2Cl2/MeOH 9:1)=0.39. MS (LC-MS): 387.2 [M+H]+.

reactant | (3S,4S)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 22.41 mmol, 7.7 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C=O)C(O[SiH2]C(C)(C)C)(C)C | C17H33NO4Si
reactant | isopropylamine | 67.24 mmol, 5.78 mL | C(C)(C)N | C3H9N
reactant | NaBH(OAc)3 | 56.03 mmol, 11.88 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3S,4R)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-(isopropylamino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC(C)C)C(O[SiH2]C(C)(C)C)(C)C | C20H42N2O3Si
